US08754107B2
To a mixture of 4-(2-methoxyphenyl)piperidine (0.951 g, 4.97 mmol) and (3S,7aR)-7a-cyclopropyl-3-phenyl-2,3-dihydropyrrolo[2,1-b]oxazol-5(7aH)-one (preparation #24) (1.0 g, 4.1 mmol) was added water (0.8 mL, 44 mmol). After about 5 minutes, DCM (5 mL) was added. All the solids dissolved. The reaction mixture was stirred at room temperature for about 16 hours. Purification on a Biotage silica gel column eluting with DCM/EtOAc (1:0 to 1:1) afforded (3S,7R,7aR)-7a-cyclopropyl-7-(4-(2-methoxyphenyl)piperidin-1-yl)-3-phenyltetrahydropyrrolo[2,1-b]oxazol-5(6H)-one (1.29 g, 2.98 mmol) as a white solid. RP-HPLC (Table 1, Method a) Rt 2.14 min; m/z: (M+H)+ 433.

reactant | 4-(2-methoxyphenyl)piperidine | 4.97 mmol, 0.951 g | COC1=C(C=CC=C1)C1CCNCC1 | C12H17NO
reactant | (3S,7aR)-7a-cyclopropyl-3-phenyl-2,3-dihydropyrrolo[2,1-b]oxazol-5(7aH)-one | 4.1 mmol, 1.0 g | C1(CC1)[C@]12OC[C@@H](N1C(C=C2)=O)C2=CC=CC=C2 | C15H15NO2
reactant | water | 44 mmol, 0.8 mL | O | H2O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (3S,7R,7aR)-7a-cyclopropyl-7-(4-(2-methoxyphenyl)piperidin-1-yl)-3-phenyltetrahydropyrrolo[2,1-b]oxazol-5(6H)-one | 2.98 mmol, 1.29 g | C1(CC1)[C@]12OC[C@@H](N1C(C[C@H]2N2CCC(CC2)C2=C(C=CC=C2)OC)=O)C2=CC=CC=C2 | C27H32N2O3
